US07517910B2
3-bromo-1-(2-ethoxyethyl)-2-methyl-1H-indole
Under ice-cooling, sodium hydride (60% in oil, 1.44 g, 36.0 mmol) was added to a solution of 3-bromo-2-methyl-1H-indole (6.30 g, 30.0 mmol) in N,N-dimethylformamide (30 mL) by small portions, and the mixture was stirred under a nitrogen atmosphere at the same temperature for 1 hr. 2-Bromoethyl ethyl ether (5.07 mL, 45.0 mmol) and sodium iodide (0.747 g, 4.50 mmol) were added to the reaction mixture, and the mixture was stirred at 70° C. for 6 hr. The reaction mixture was concentrated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-25% ethyl acetate/hexane) to give the title compound (6.30 g, yield 74%) as a dark-purple oil. MS m/z 282 (MH+).

reactant | sodium hydride | 36.0 mmol, 1.44 g | [H-].[Na+]
reactant | 3-bromo-2-methyl-1H-indole | 30.0 mmol, 6.30 g | BrC1=C(NC2=CC=CC=C12)C | C9H8BrN
reactant | 2-Bromoethyl ethyl ether | 45.0 mmol, 5.07 mL | C(C)OCCBr | C4H9BrO
reactant | sodium iodide | 4.50 mmol, 0.747 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-bromo-1-(2-ethoxyethyl)-2-methyl-1H-indole | 6.30 g, yield 74% | BrC1=C(N(C2=CC=CC=C12)CCOCC)C | C13H16BrNO
